US08222286B2
Next, to a suspension of 1-(4-methoxy-benzyl)-1H-tetrazol-5-ylamine (600 mg, 2.92 mmol) in MeOH (10 mL) were added paraformaldehyde (132 mg, 4.39 mmol) and sodium methoxide (632 mg, 25 wt % in MeOH). The mixture was refluxed for 30 min until the suspension turned into a clear solution. The mixture was cooled to room temperature and sodium borohydride (332 mg, 8.77 mmol) was added portionwise. The reaction mixture was refluxed again for 15 min. After cooled to room temperature, the reaction was quenched with H2O. The mixture was diluted with EtOAc, partially concentrated, and washed with brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: 10% MeOH in DCM) to give [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine (0.63 g). 1H NMR (400 MHz, CDCl3) δ 3.00 (d, 3H, J=5.3 Hz), 3.61 (bs, 1H), 3.82 (s, 3H), 5.25 (s, 2H), 6.91 (d, 2H, J=8.8 Hz), 7.16 (d, 2H, J=8.8 Hz); MS: m/z (MH+) 220.

reactant | 1-(4-methoxy-benzyl)-1H-tetrazol-5-ylamine | 2.92 mmol, 600 mg | COC1=CC=C(CN2N=NN=C2N)C=C1 | C9H11N5O
reactant | paraformaldehyde | 4.39 mmol, 132 mg | C=O | CH2O
reactant | sodium methoxide | 632 mg | C[O-].[Na+]
reactant | sodium borohydride | 8.77 mmol, 332 mg | [BH4-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | [1-(4-methoxy-benzyl)-1H-tetrazol-5-yl]-methyl-amine | 0.63 g | COC1=CC=C(CN2N=NN=C2NC)C=C1 | C10H13N5O
